US05262412
Step A: N-t-Butyl-4-n-propylbenzenesulfonamide
To a solution of 4-n-propylbenzenesulfonyl chloride (Lancaster) in anhydrous CH2Cl2 (0.5M solution) cooled to 0° C. under N2 was added t-butylamine (2.2 equivalents) slowly through a dropping funnel. After complete addition, the reaction was stirred at room temperature for 12 hours. The CH2Cl2 was removed under reduced pressure, and the residue was extracted into ether and washed with 2N NaOH, H2O and brine. The organic phase was dried over anhydrous MgSO4 and concentrated in vacuo to afford the title compound; TLC in 3:1 hexane-EtOAc (Rf =0.46) (3:1 hexane-EtOAc). 200 MHz 1H NMR (CDCl3) δ0.93 (t, 3H), 1.22 (s, 9H), 1.62 (m, 2H), 2.65 (t, 2H), 4.67 (br s, 1H), 7.27 (d, 2H), 7.79 (d, 2H).

reactant | 4-n-propylbenzenesulfonyl chloride | C(CC)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
reactant | t-butylamine | 2.2 equivalents | C(C)(C)(C)N | C4H11N
solvent | CH2Cl2 | 0.5M | C(Cl)Cl | CH2Cl2
product | N-t-Butyl-4-n-propylbenzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC=C(C=C1)CCC | C13H21NO2S
